US09359359B2
To a solution of 7-(4-chlorobenzyl)-8-(cyclopentyloxy)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (180 mg, 0.35 mmol) in methanol (10 mL) was added ammonium formate (220 mg, 3.5 mmol) and 5% Pd/C (20 mg). The reaction was refluxed under nitrogen atmosphere overnight. The mixture was cooled and filtered. The filtrate was concentrated to give 8-(cyclopentyloxy)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (120 mg, 87.6% yield) as white solid. LCMS retention time 1.345 min; LCMS MH+-THP 309.

reactant | 7-(4-chlorobenzyl)-8-(cyclopentyloxy)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 0.35 mmol, 180 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)OC2CCCC2)C=C1 | C26H33ClN4O5
reactant | ammonium formate | 3.5 mmol, 220 mg | C(=O)[O-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 8-(cyclopentyloxy)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 120 mg, 87.6% yield | C1(CCCC1)OC1=NC=2N(C(N(C(C2N1)=O)CCCOC1OCCCC1)=O)C | C19H28N4O5
